US09193693B2
Step 1. (R)-methyl 3-(2-(hydroxymethyl)pyrrolidin-1-yl)-2-phenylquinoxaline-6-carboxylate
Into an 8-mL sealed tube, was placed a solution of methyl 3-chloro-2-phenylquinoxaline-6-carboxylate (150 mg, 0.50 mmol, 1.00 equiv), (R)-pyrrolidin-2-ylmethanol (150 mg, 1.49 mmol, 3.00 equiv), and potassium carbonate (345 mg, 2.50 mmol, 5.00 equiv) in Tol/DMSO (2.5/0.5 mL). The resulting mixture was stirred overnight at 100° C. The residue was purified by silica gel chromatography with ethyl acetate/petroleum ether (1:50). This resulted in 120 mg (63%) of (R)-methyl 3-(2-(hydroxymethyl)pyrrolidin-1-yl)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-chloro-2-phenylquinoxaline-6-carboxylate | 0.50 mmol, 150 mg, 1.00 equiv | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11ClN2O2
reactant | (R)-pyrrolidin-2-ylmethanol | 1.49 mmol, 150 mg, 3.00 equiv | N1[C@H](CCC1)CO | C5H11NO
reactant | potassium carbonate | 2.50 mmol, 345 mg, 5.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | (R)-methyl 3-(2-(hydroxymethyl)pyrrolidin-1-yl)-2-phenylquinoxaline-6-carboxylate | OC[C@@H]1N(CCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C21H21N3O3
